US07807673B2
To the solution of N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide (0.080 g) in i-PrOH (5 mL) was added 2-methyl-1,2,3,4-tetrahydro-7-isoquinolinamine (0.041 g) and 2 drops of concentrate hydrochloric acid. The reaction was microwaved in a sealed tube at 180° C. for 10 min. The i-PrOH was removed by rotary evaporation and the residue was treated with sat. NaHCO3 (5 mL), extracted with EtOAc (2×5 mL), and dried (Na2SO4). Concentration and purification with column chromatography afforded the title compound as a white solid (0.060 g, 60% yield). 1H NMR (400 MHz, DMSO-d6) δ 2.25 (s, 3H), 2.63 (s, 2H), 3.17 (s, 2H), 3.84 (s, 2H), 6.80 (s, 1H), 6.89 (dd, 1H, J=4.94, 3.11 Hz), 6.95 (d, 2H, J=3.66 Hz), 6.99-7.05 (m, 1H), 7.08 (d, 1H, J=7.68 Hz), 7.18 (s, 1H), 7.24-7.30 (m, 2H), 7.35-7.37 (m, 1H), 7.58 (d, 1H, J=1.10 Hz), 8.05 (t, 1H, J=1.83 Hz), 8.44 (d, 1H, J=5.12 Hz), 8.72 (d, 1H, J=6.95 Hz), 9.39 (s, 1H), 10.32 (s, 1H). ES-LC/MS m/z=590 [M+H]+.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 0.080 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C23H15ClFN5OS
reactant | 2-methyl-1,2,3,4-tetrahydro-7-isoquinolinamine | 0.041 g | CN1CC2=CC(=CC=C2CC1)N | C10H14N2
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | N-[3-(4-fluoro-3-{2-[(2-methyl-1,2,3,4-tetrahydro-7-isoquinolinyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 0.060 g, 60% yield | FC=1C=2N(C=CC1)N=C(C2C2=NC(=NC=C2)NC2=CC=C1CCN(CC1=C2)C)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C33H28FN7OS
